US08084483B2
Lithium hydroxide solution (1M aqueous, 0.77 mL, 0.77 mmol) was added to a solution of ethyl 2-(5-(difluoromethyl)-4-(4-ethylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)acetate (0.15 g, 0.38 mmol) in THF/water (3:1, 1.5 mL) and the mixture stirred for 8 h at room temperature. The crude reaction mixture was then concentrated and acidified with HCl (1N, 3 mL) and extracted with ethyl acetate (3×2 mL). The combined organic extracts were concentrated to afford 2-(5-(difluoromethyl)-4-(4-ethylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)acetic acid as an off-white foam (0.136 g, 99%).

reactant | Lithium hydroxide | 0.77 mmol, 1M, 0.77 mL | [OH-].[Li+]
reactant | ethyl 2-(5-(difluoromethyl)-4-(4-ethylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)acetate | 0.38 mmol, 0.15 g | FC(C=1N(C(=NN1)SCC(=O)OCC)C1=CC=C(C2=CC=CC=C12)CC)F | C19H19F2N3O2S
solvent | THF water | 1.5 mL | C1CCOC1.O
product | 2-(5-(difluoromethyl)-4-(4-ethylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)acetic acid | 0.136 g, 99% | FC(C=1N(C(=NN1)SCC(=O)O)C1=CC=C(C2=CC=CC=C12)CC)F | C17H15F2N3O2S
